US04515975
Preparation of 6-hydroxy-2-methoxymethyl-2,5,7,8-tetramethyl-chroman-4-one
3.00 g (15.6 mmoles) of acetyl-trimethylhydroquinone, 1.58 g (18 mmoles) of methoxyacetone and 250 g (30 mmoles) of pyrrolidine were reacted in toluene solution by a method similar to that of Example 1 to give the above product, which was obtained as an oil. Boiling point: 250°-270° C. (bulb tube); yield: 37%.

reactant | acetyl-trimethylhydroquinone | 15.6 mmoles, 3.00 g | C(C)(=O)C1=C(C(=C(C(=C1O)C)C)O)C | C11H14O3
reactant | methoxyacetone | 18 mmoles, 1.58 g | COCC(C)=O | C4H8O2
reactant | pyrrolidine | 30 mmoles, 250 g | N1CCCC1 | C4H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-hydroxy-2-methoxymethyl-2,5,7,8-tetramethyl-chroman-4-one | yield: 37% | OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC)=O)C | C15H20O4
